US05338740
B. Acetic acid 1-oxo-indan-5-yl ester
To a solution of 5-hydroxy-indan-1-one (1600 mg, 10.8 mmol)in CH2Cl2 (20 mL) at 23° C. were added 4-N,N-dimethylaminopyridine (1830 mg, 15 mmol) and acetic anhydride (1500 mg, 1.4 mL, 15 mmol). The reaction mixture was stirred for 25 hours, quenched with 10% hydrochloric acid (HCl) (20 mL) and diluted with CHCl3 (500 mL). The organic layer was separated and washed with saturated aqueous NaHCO3 (20 mL), dried (MgSO4)and concentrated in vacuo. 1H NMR (250 MHz, CDCl3): d 7.78 (d, 2 H), 7.21 (s, 1 H), 7.10 (d, 1 H), 3.28 (t, 2 H), 2.75 (t, 2 H), 2.38 (s, 3 H).

reactant | 5-hydroxy-indan-1-one | 10.8 mmol, 1600 mg | OC=1C=C2CCC(C2=CC1)=O | C9H8O2
reactant | acetic anhydride | 15 mmol, 1.4 mL, 1500 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | Acetic acid 1-oxo-indan-5-yl ester | O=C1CCC2=CC(=CC=C12)OC(C)=O | C11H10O3
